US07776869B2
Step 1: Preparation of 1-methyl-4-(3-nitro-5-(trifluoromethyl)phenyl)piperazine
Into a 50 mL round bottom flask was placed the 1-iodo-3-nitro-5-(trifluoromethyl)benzene (1 g, 3.15 mmol), N-methylpiperazine (0.379 g, 3.78 mmol), bis(dibenzylideneacetone)palladium (0.029 g, 0.0315 mmol), sodium tert-butoxide (0.424 g, 4.416 mmol), 2-dicyclohexyl-2′-(N,N-dimethylamino)biphenyl (0.037 g, 0.094 mmol), and toluene (25 mL). Reaction was heated to 80° C. with stirring for 20 hours. Reaction was cooled to room temperature and water (1 mL) and ethyl acetate (10 mL) were added. The organic layer is separated, concentrated under reduced pressure and purified via silica column eluting with 0 to 20% methanol in dichloromethane. The title compound was obtained as an orange oil.

reactant | 1-iodo-3-nitro-5-(trifluoromethyl)benzene | 3.15 mmol, 1 g | IC1=CC(=CC(=C1)C(F)(F)F)[N+](=O)[O-] | C7H3F3INO2
reactant | N-methylpiperazine | 3.78 mmol, 0.379 g | CN1CCNCC1 | C5H12N2
reactant | sodium tert-butoxide | 4.416 mmol, 0.424 g | CC(C)([O-])C.[Na+]
reactant | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
catalyst | bis(dibenzylideneacetone)palladium | 0.0315 mmol, 0.029 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 1 mL | O | H2O
product | 1-methyl-4-(3-nitro-5-(trifluoromethyl)phenyl)piperazine | CN1CCN(CC1)C1=CC(=CC(=C1)C(F)(F)F)[N+](=O)[O-] | C12H14F3N3O2
